US08664401B2
Step F) (2R)-4-{4-[4-(4-methoxy-2H-1,2,3-triazol-2-yl)phenyl]-2-oxopyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide
Pd EnCat (98 mg, 0.03 mmol) was added to a mixture of potassium carbonate (171 mg, 1.24 mmol), 4-methoxy-2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2H-1,2,3-triazole (138 mg, 0.457 mmol) and (2R)-4-(4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide which may be produced as in Preparation 2B(T6) (190 mg, 0.381 mmol) in dioxane:water (6 ml, 5:1 mix) in a 20 ml vial. The reaction was cooled and filtered through celite (approx 1 inch). The celite was washed with additional methanol (100 ml). The filtrate was concentrated in vacuo and the crude material was purified by chromatography on silica gel (4:1 heptane:EtOAc to 100% EtOAc to 85% EtOAc:15% methanol) to furnish a light tan gum (120 mg, 58% TY). MS (LC/MS) m/z 546.2 (M+1). 1H NMR (400 MHz, METHANOL-d4) δ ppm 1.28 (s, 1H) 1.57-1.70 (m, 2H) 1.68-1.81 (m, 3H) 1.78-1.92 (m, 3H) 2.36-2.50 (m, 1H) 2.55-2.72 (m, 1H) 3.09-3.21 (m, 3H) 3.56-3.70 (m, 1H) 4.07 (s, 3H) 4.12 (d, J=7.22 Hz, 2H) 4.15-4.25 (m, 1H) 4.25-4.42 (m, 1H) 5.01-5.14 (m, 1H) 6.76-6.85 (m, 1H) 6.87 (s, 1H) 7.49 (s, 1H) 7.68-7.80 (m, 1H) 7.85 (d, J=9.17 Hz, 2H) 8.08 (d, J=8.98 Hz, 2H)

reactant | potassium carbonate | 1.24 mmol, 171 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methoxy-2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2H-1,2,3-triazole | 0.457 mmol, 138 mg | COC1=NN(N=C1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C15H20BN3O3
reactant | (2R)-4-(4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | IC1=CC(N(C=C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O | C16H23IN2O6S
reactant | water | 6 ml | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd | [Pd] | Pd
product | (2R)-4-{4-[4-(4-methoxy-2H-1,2,3-triazol-2-yl)phenyl]-2-oxopyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | COC1=NN(N=C1)C1=CC=C(C=C1)C1=CC(N(C=C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O | C25H31N5O7S
